US06239131B1
Preparation of 1-[1-(2-aminophenacyl)-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea
Etanol (20 ml) and 10% palladium carbon (70 mg) were added to 1-[1-(2-nitrophenacyl)-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea (700 mg), the mixture was stirred at room temperature under hydrogen atmosphere for 3 hours. The reaction mixture was filtrated and the filtrate was concentrated under reduced pressure, to thereby to obtain 280 mg of the title compound as colorless oil.

reactant | 1-[1-(2-nitrophenacyl)-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 700 mg | [N+](=O)([O-])C1=C(C(CN2C(C(CN(C3=C2C=CC=C3)C(C(C)(C)C)=O)NC(=O)NC3=CC(=CC=C3)C(=O)OCC)=O)=O)C=CC=C1 | C32H33N5O8
catalyst | palladium carbon | 70 mg | [C].[Pd]
solvent | Etanol | 20 ml | CCO | C2H6O
product | 1-[1-(2-aminophenacyl)-2-oxo-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 280 mg | NC1=C(C(CN2C(C(CN(C3=C2C=CC=C3)C(C(C)(C)C)=O)NC(=O)NC3=CC(=CC=C3)C(=O)OCC)=O)=O)C=CC=C1 | C32H35N5O6
